US07371869B2
2-{(S)-2-[2-tert-Butoxycarbonylamino-2-(1-methyl-1 H-benzoimidazol-5-yl)-acetylamino]-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester (185 mg, 0.193 mmol) was dissolved at 0° C. in a 30% v/v solution of trifluoroacetic acid in dichloromethane (10 mL, 38.9 mmol). The reaction mixture was slowly warmed to room temperature and stirred for approximately 3.5 hours. The reaction mixture was then cooled to 0° C. and neutralized by the addition of solid sodium bicarbonate until there was no further evolution of carbon dioxide. The reaction mixture was then partitioned between dichloromethane and water and the water layer thoroughly extracted with dichloromethane until no products could be detected in the organic extract as judged by absorption of ultraviolet radiation on silica gel thin layer chromatography plates containing a fluorescent indicator which absorbed at 254 nm. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was dissolved in tetrahydrofuran (≈5 mL), diisopropylethyl amine (180 μL, 1.00 mmol) added and the resulting solution was transferred via cannula to a solution of diphosgene (20 μL, 0.18 mmol) in tetrahydrofuran (≈10 mL) at 0° C. After stirring for 10 minutes the reaction mixture was partitioned between ethyl acetate and water, the water layer separated and extracted with ethyl acetate until no products could be detected in the organic extract as judged by absorption of ultraviolet radiation on silica gel thin layer Chromatography plates containing a fluorescent indicator which absorbed at 254 nm. The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography over silica gel gradient eluted between 0 and 5% v/v methanol in dichloromethane and the isolated product precipitated from a dichloromethane solution with an exess of hexanes to afford 2-{(S)-2-[4-(1-methyl-1H-benzoimidazol-5-yl)-2,5-dioxo-imidazolidin-1-yl]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester as an off-white solid (60 mg, 60%).

reactant | 2-{(S)-2-[2-tert-Butoxycarbonylamino-2-(1-methyl-1 H-benzoimidazol-5-yl)-acetylamino]-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | 0.193 mmol, 185 mg | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(C(C1=CC2=C(N(C=N2)C)C=C1)NC(=O)OC(C)(C)C)=O)=O | C29H32N6O6S
reactant | dichloromethane | 38.9 mmol, 10 mL | ClCCl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | diisopropylethyl amine | 1.00 mmol, 180 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphosgene | 0.18 mmol, 20 μL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | ≈10 mL | O1CCCC1 | C4H8O
product | 2-{(S)-2-[4-(1-methyl-1H-benzoimidazol-5-yl)-2,5-dioxo-imidazolidin-1-yl]-3-phenyl-propionylamino}-thiazole-4-carboxylic acid methyl ester | 60 mg, 60% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)N1C(NC(C1=O)C1=CC2=C(N(C=N2)C)C=C1)=O)=O | C25H22N6O5S
